US07750155B2
To a solution of tert-butyl [(3R)-1-(3-phenylpropyl)-3-piperidinyl]carbamate (880 mg) in AcOEt (1.3 mL) was added 4N HCl—AcOEt (8.8 mL). The mixture was stirred at ambient temperature for 3 hours. The solvent was evaporated. Dichloromethane (10 ml) and saturated sodium bicarbonate (15 ml) was added. Aqueous layer was separated and extracted with dichloromethane. Combined organic layer was dried over magnesium sulfate, filtered and evaporated in vacuo to give (3R)-1-(3-phenylpropyl)-3-piperidineamine (586 mg) as an yellow oil.

reactant | tert-butyl [(3R)-1-(3-phenylpropyl)-3-piperidinyl]carbamate | 880 mg | C1(=CC=CC=C1)CCCN1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C19H30N2O2
reactant | HCl AcOEt | 4N, 8.8 mL | Cl.CCOC(=O)C
solvent | AcOEt | 1.3 mL | CCOC(=O)C | C4H8O2
product | (3R)-1-(3-phenylpropyl)-3-piperidineamine | 586 mg | C1(=CC=CC=C1)CCCN1C[C@@H](CCC1)N | C14H22N2
